.title KiCad schematic
.save all
.probe alli
.probe p(V1)
.probe p(R1)
.probe p(C1)
.tran 1n 1u
V1 /in 0 PULSE( 0 1 2n 2n 2n 50n 100n ) 
R1 /in /out 1k
C1 /out 0 10p
.end

